US09102662B2
Preparation of tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoate
Tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)benzoate (448 mg, 1.15 mmol) was dissolved in 20 ml of DCM. TEA (0.18 ml, 1.3 mmol) and TFAA (0.27 ml, 1.7 mmol) were added and the reaction mixture was stirred at room temperature for 2 hours and quenched with 15 ml of NaHCO3 10%. The resulting mixture was extracted twice with 20 ml of DCM, dried over Na2SO4, filtered and concentrated under vacuum. The crude product was subjected to silica gel chromatographic purification (DCM/MeOH 95:5) to yield a yellow oil (481 mg, 1 mmol, 87%).

reactant | Tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-(tetrahydro-2H-pyran-4-ylamino)benzoate | 1.15 mmol, 448 mg | CN1[C@@H](CCC1)COC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CCOCC1 | C22H34N2O4
reactant | TFAA | 1.7 mmol, 0.27 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoate | 1 mmol, 481 mg, 87% | CN1[C@@H](CCC1)COC1=CC(=C(C(=O)OC(C)(C)C)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C24H33F3N2O5
